US06071925
3-Allyl-8-(5,8-dichloro-1,2,3,4-tetrahydro-2-naphthyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride
The title compound, m.p.>250° C. and MS: m/e=470.4, 472.4 (M+H+) was prepared in accordance with the general method of example 4 from 8-(5,8-dichloro-1,2,3,4-tetrahydro-2-naphthyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one and allyl bromide.

reactant | 8-(5,8-dichloro-1,2,3,4-tetrahydro-2-naphthyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | ClC1=C2CCC(CC2=C(C=C1)Cl)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C23H25Cl2N3O
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | 3-Allyl-8-(5,8-dichloro-1,2,3,4-tetrahydro-2-naphthyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride | Cl.C(C=C)N1CN(C2(C1=O)CCN(CC2)C2CC1=C(C=CC(=C1CC2)Cl)Cl)C2=CC=CC=C2 | InChI=1S/C26H29Cl2N3O.ClH/c1-2-14-30-18-31(19-6-4-3-5-7-19)26(25(30)32)12-15-29(16-13-26)20-8-9-21-22(17-20)24(28)11-10-23(21)27;/h2-7,10-11,20H,1,8-9,12-18H2;1H
